US07071182B2
3-chloro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-ylamine
A mixture of 3-Chloro-5-nitro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazole (0.40 g, 1.4 mmol), iron powder (0.76 g, 14 mmol), and ammonium chloride (37 mg, 0.68 mmol) in 80% ethanol was heated to reflux for 3 hours, cooled to room temperature and concentrated under reduced pressure. The residue was stirred in triethylamine/ethyl acetate (1/4, 20 mL) for 15 minutes, filtered through a plug of silica gel, which was rinsed with triethylamine/ethyl acetate (1/4). The filtrate was concentrated under reduced pressure to provide the title compound (0.30 g, 84%). 1H NMR (300 MHz, DMSO-d6) ppm 1.62 (m, 4H), 2.44 (m, 4H), 2.81 (t, J=6.44, 2H), 4.34 (t, J=6.44, 2H), 5.05 (s, 2H), 6.58 (m, 1H), 6.88 (m, 1H), 7.12 (m, 1H); MS (DCI/NH3) m/z 265 [M+H]+.

reactant | 3-Chloro-5-nitro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazole | 1.4 mmol, 0.40 g | ClC1=NN(C2=CC=C(C=C12)[N+](=O)[O-])CCN1CCCC1 | C13H15ClN4O2
reactant | ammonium chloride | 0.68 mmol, 37 mg | [Cl-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
catalyst | iron | 14 mmol, 0.76 g | [Fe] | Fe
product | 3-chloro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-ylamine | 0.30 g, 84% | ClC1=NN(C2=CC=C(C=C12)N)CCN1CCCC1 | C13H17ClN4
